US06413991B1
(S)-4-[2-Hydroxy-3-([4-(4-carboxy-2-iodophenoxy)phenyl]-2-methylpropylamino)propoxy]carbazole
(S)-4-[2-hydroxy-3-([4-(4-carboethoxy-2-iodophenoxy)phenyl]-2-methylpropylamino)propoxy]carbazole (386 mg, 0.54 mmol) was dissolved in a mixture of ethanol (20 ml) and aqueous potassium hydroxide (20 ml, 5.0N) and was stirred at ambient temperature for 16 hours. The crude reaction mixture was concentrated in vacuo and the residue acidified with 5.0N HCl. The solution was allowed to stir for one hour at 0° C. and then concentrated in vacuo to afford a white solid. The residue was suspended in water and filtered, and the solids washed with cold water. The solids were triturated with pentane and dried to afford product as a white solid (370mg, 100%). NMR, MS, IR, HPLC

reactant | (S)-4-[2-hydroxy-3-([4-(4-carboethoxy-2-iodophenoxy)phenyl]-2-methylpropylamino)propoxy]carbazole | 0.54 mmol, 386 mg | O[C@H](COC1=CC=CC=2NC3=CC=CC=C3C12)CN(CC(C)C)C1=CC=C(C=C1)OC1=C(C=C(C=C1)C(=O)OCC)I | C34H35IN2O5
solvent | ethanol | 20 ml | C(C)O | C2H6O
solvent | potassium hydroxide | 5.0N, 20 ml | [OH-].[K+]
solvent | water | O | H2O
product | (S)-4-[2-Hydroxy-3-([4-(4-carboxy-2-iodophenoxy)phenyl]-2-methylpropylamino)propoxy]carbazole | 370mg, 100% | O[C@H](COC1=CC=CC=2NC3=CC=CC=C3C12)CN(CC(C)C)C1=CC=C(C=C1)OC1=C(C=C(C=C1)C(=O)O)I | C32H31IN2O5
